* SP02: BQ24074 power-path and charger behavior
* Tests: USB plugged/unplugged, battery charge current, SYS voltage, TS fault

.include models/custom/bq24074.lib
.include models/custom/passive.lib

* USB input with connector resistance; pulsed to show plug/unplug
VUSB vusb 0 PWL(0 0 1m 0 2m 5.0 30m 5.0 31m 0 60m 0 61m 5.0)
RUSB vusb vin 100m

* Battery model
XBAT bat 0 BATTERY PARAMS: V=3.5 R=0.1

* Charger IC
XU4 vin bat sys ts iset ilim iterm 0 0 chg pg 0 BQ24074

* Programming resistors
Riset 0 iset 750
Rilim vin ilim 1.1k
Riterm 0 iterm 3k

* SYS load: ~250mA system
Rsys sys 0 13

* TS bias test: current schematic has 10k to GND (faulty)
RTS vin ts 10k

.tran 100u 80m
.print tran v(vin) v(bat) v(sys) v(ts) i(XU4.GCHG) v(chg) v(pg)
.end
